US05079248
4-{4-[2-Chloroethoxy]benzoyl}morpholine
4-(2-Chloroethoxy)benzoyl chloride (5.0 g) was dissolved in dry methylene chloride and stirred while cooling to 0°. Morpholine (4.0 g) was added dropwise and the mixture was stirred at room temperature for 2 days. The resultant colourless solid was filtered off and the liquors allowed to stand from which the title compound crystallised (5.5 g), m.p. 102°-104°.

reactant | 4-(2-Chloroethoxy)benzoyl chloride | 5.0 g | ClCCOC1=CC=C(C(=O)Cl)C=C1 | C9H8Cl2O2
reactant | Morpholine | 4.0 g | N1CCOCC1 | C4H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-{4-[2-Chloroethoxy]benzoyl}morpholine | ClCCOC1=CC=C(C(=O)N2CCOCC2)C=C1 | C13H16ClNO3
